US04476132
3.66 g of formylacetic acid ethyl ester are converted into the sodium salt in 75 ml of dimethyl acetamide with sodium hydride (1.41 g of a 50% strength suspension in mineral oil, de-oiled with hexane). 6.08 g of N-ethyl-5-butyryl-4-methylisatic acid anhydride in 75 ml of dimethyl acetamide are added, the reaction mixture is heated at 110° for 4 hours, concentrated to 50 ml under reduced pressure, 200 ml of ice-water and 30 ml of 2N hydrochloric acid are added, the mixture is suction-filtered, and the residue is subsequently washed with a little cold diethyl ether and recrystallised twice from methanol. 1-Ethyl-6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester having a melting point of 145°-146° is obtained.

reactant | formylacetic acid ethyl ester | 3.66 g | C(C)OC(CC=O)=O | C5H8O3
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | N-ethyl-5-butyryl-4-methylisatic acid anhydride | 6.08 g | C(C)NC=1C(=CC(=C(C1)C)C(CCC)=O)C(=O)C(=O)OC(C(C=1C(NCC)=CC(=C(C1)C(CCC)=O)C)=O)=O | C30H36N2O7
reactant | dimethyl acetamide | 75 ml | CC(=O)N(C)C | C4H9NO
reactant | dimethyl acetamide | 75 ml | CC(=O)N(C)C | C4H9NO
solvent | hexane | CCCCCC | C6H14
product | 1-Ethyl-6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)C(CCC)=O)C)CC | C19H23NO4
